US08895313B2
4-(4,4,4-Trifluorobutoxy)benzoic acid
To a stirred solution of ethyl 4-(4,4,4-trifluorobutoxy)benzoate (0.60 g, 2.17 mmol) in THF/water (3:1 v/v, 15 ml) at room temperature was added LiOH (0.11 g, 4.34 mmol) in one portion. The reaction mixture was stirred at room temperature for 18 h, then EtOH (15 ml) was added to give a clear solution and stirring was continued for 48 h. The solvents were removed under reduced pressure and to the residue was added water (30 ml). This was extracted with DCM (30 ml) and the aqueous phase was then acidified with 1 M HCl and extracted with EtOAc (3×30 ml). The combined organic extracts were washed with brine (30 ml) and dried (Na2SO4). The solvent was removed under reduced pressure to give the title compound (0.51 g, 95%) as a colourless solid which was used without further purification.

reactant | ethyl 4-(4,4,4-trifluorobutoxy)benzoate | 2.17 mmol, 0.60 g | FC(CCCOC1=CC=C(C(=O)OCC)C=C1)(F)F | C13H15F3O3
reactant | LiOH | 4.34 mmol, 0.11 g | [Li+].[OH-]
reactant | EtOH | 15 ml | CCO | C2H6O
solvent | THF water | 15 ml | C1CCOC1.O
product | 4-(4,4,4-Trifluorobutoxy)benzoic acid | 0.51 g, 95% | FC(CCCOC1=CC=C(C(=O)O)C=C1)(F)F | C11H11F3O3
